US05434154
To a solution of 5-amino-1H-indole (10.0 g, 76 mmol) and triethylamine (15.8 mL, 114 mmol) in 100 mL CH2Cl2 at 0° C. was added dropwise a solution of ethanesulfonyl chloride (7.9 mL, 83 mmol) in 25 mL of CH2Cl2. The solution was allowed to slowly warm to 23° C. over 20 h. The reaction mixture was concentrated in vacuo and the residue dissolved in 400 mL of ethyl acetate. The organic layer was washed with 100 mL of water, 50 mL of 0.1 M HCl, 50 mL of saturated NaHCO3 solution, and 50 mL of saturated NaCl solution. The organic layer was dried over anhydrous K2CO3, filtered, and concentrated in vacuo to obtain 5-ethanesulfonyl-amino-1H-indole (16.9 g, >99%) which was used without further purification.

reactant | 5-amino-1H-indole | 76 mmol, 10.0 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | triethylamine | 114 mmol, 15.8 mL | C(C)N(CC)CC | C6H15N
reactant | ethanesulfonyl chloride | 83 mmol, 7.9 mL | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 5-ethanesulfonyl-amino-1H-indole | 16.9 g, >99% | C(C)S(=O)(=O)C=1C=C2C=CN(C2=CC1)N | C10H12N2O2S
